USRE039591E1
Step 232a. N-(2-quinolyl)methoxyphthalimide
2-(hydroxymethyl)quinoline (1.20 g, 7.55 mmol), triphenyl phosphine (1.00 g, 6.29 mmol, 1.05 equiv) and N-hydroxyphthalimide (1.08 g, 6.63 mmol, 1.05 equiv) were dissolved in 25 mL of dry THF. Diethylazodicarboxylate (1.09 mL, 6.93 mmol, 1.10 equiv) was then added dropwise and the reaction was stirred overnight. The reaction mixture filtered to give a white solid. The filtrate was concentrated and a second crop of material was obtained by triturating with Et2O. This was combined with the original solid and recrystallization from EtOH gave the desired product (1.53 g) as a fluffy white solid. MS(CI) m/e 305 (M+H)+.

reactant | 2-(hydroxymethyl)quinoline | 7.55 mmol, 1.20 g | OCC1=NC2=CC=CC=C2C=C1 | C10H9NO
reactant | triphenyl phosphine | 6.29 mmol, 1.00 g, 1.05 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-hydroxyphthalimide | 6.63 mmol, 1.08 g, 1.05 equiv | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | Diethylazodicarboxylate | 6.93 mmol, 1.09 mL, 1.10 equiv | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N-(2-quinolyl)methoxyphthalimide | 1.53 g | N1=C(C=CC2=CC=CC=C12)CON1C(C=2C(C1=O)=CC=CC2)=O | C18H12N2O3
